US04565817
5.04 g. of 2-(theophyllin-7-yl)-acetamidoxime, 4.8 g. hydracrylyc acid ethyl ester, 2.16 g. of sodium ethylate and 100 cm3 of methanol are heated under pressure at 100° C. for 12 hours. The solvent is distilled off and the residue is crystallized from water. 5.3 g. (87% yield) of 7-[{5-(2-hydroxy-ethyl)-1,2,4-oxadiazol-3-yl}-methyl]-theophylline are obtained, m.p.: 145° C. The raw hydroxy ethyl compound is heated with 20 cm3 thionyl chloride and 20 cm3 benzene for 2 hours. The solvent is distilled off and the obtained 7-[{5-(2-chloroethyl)-1,2,4-oxadiazol-3-yl}-methyl]-theophylline is stirred in 50 cm3 of dimethylformamide with 6 cm3 diethylamine and 5 g. of potassium carbonate vigorously for 10 hours at 100° C. 4.4 g. (61% yield) of 7-[{ 5-(2-diethylaminoethyl)-1,2,4-oxadiazol-3-yl}-methyl]-theophylline are obtained. M.p.: 65°-68° C. (cyclohexane).

reactant | 2-(theophyllin-7-yl)-acetamidoxime | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(N)=NO | C9H12N6O3
reactant | sodium ethylate | CC[O-].[Na+]
reactant | methanol | 100 cm3 | CO | CH4O
product | 7-[{5-(2-hydroxy-ethyl)-1,2,4-oxadiazol-3-yl}-methyl]-theophylline | 87% yield | OCCC1=NC(=NO1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C12H14N6O4
